US04496572
Thionyl chloride (0.25 ml) was added dropwise to a stirred solution of 2-hydroxymethyl-3-methylbenzofuran-5-carboxylic acid methyl ester (0.20 g) and pyridine (2 drops) in chloroform (5 ml). The solution was stirred at room temperature for 30 minutes and then washed successively with water, sodium bicarbonate solution and dried (Na2SO4). Evaporation of the solvent gave crude 2-chloromethyl-3-methylbenzofuran-5-carboxylic acid methyl ester (0.18 g), m.p. 114°-115° which was used directly in the next stage.

reactant | Thionyl chloride | 0.25 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 2-hydroxymethyl-3-methylbenzofuran-5-carboxylic acid methyl ester | 0.20 g | COC(=O)C=1C=CC2=C(C(=C(O2)CO)C)C1 | C12H12O4
catalyst | pyridine | 2 drops | N1=CC=CC=C1 | C5H5N
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-chloromethyl-3-methylbenzofuran-5-carboxylic acid methyl ester | 0.18 g | COC(=O)C=1C=CC2=C(C(=C(O2)CCl)C)C1 | C12H11ClO3
